US08053457B2
(4-Pyridin-2-yl-piperazin-1-yl)-acetonitrile
The title compound is synthesized by coupling of 1-Pyridin-2-yl-piperazine and bromoacetonitrile analogously to the preparation of Intermediate 149.2 as a colorless oil; ES-MS: M+=203.2: 1HNMR(DMSO-d6) 8.05 (dd, 1H), 7.50 (dd, 1H), 6.80 (d, 1H), 6.60 (dd, 1H), 3.80 (s, 1H), 3.50 (t, 4H), 2.50 (t, 4H).

reactant | 1-Pyridin-2-yl-piperazine | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
reactant | bromoacetonitrile | BrCC#N | C2H2BrN
product | (4-Pyridin-2-yl-piperazin-1-yl)-acetonitrile | N1=C(C=CC=C1)N1CCN(CC1)CC#N | C11H14N4
